datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1ccc(S(=O)(=O)[N:21](c2cnc(Cl)nc2)[H:20])cc1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:10]1>>Nc1ccc(S(=O)(=O)[N-:21]c2cnc(Cl)nc2)cc1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:10]1[H:20] 10=20;20,21=21",
"Cc1ccnc2c([O-:10])cccc12.Cn1cncc1CC(C(=O)[O-])[NH2+:21][H:20]>>Cc1ccnc2c([O:10][H:20])cccc12.Cn1cncc1CC(C(=O)[O-])[NH2:21] 10=20;20,21=21",
"CC[NH+:21](c1cccc2ccccc12)[H:20].C[NH+](C)CCCNc1c2ccccc2[n:10]c2c(Cl)ccc([N+](=O)[O-])c12>>CC[NH:21]c1cccc2ccccc12.C[NH+](C)CCCNc1c2ccccc2[n+:10]([H:20])c2c(Cl)ccc([N+](=O)[O-])c12 10=20;20,21=21",
"CC(C)(CO)[NH2:10].COC1=C[N+:21]([H:20])=C(N)S1>>CC(C)(CO)[NH2+:10][H:20].COC1=C[N:21]=C(N)S1 10=20;20,21=21",
"CC[n+]1ccc([O-])[n+:21]([H:20])c1[S-].C[NH+](C)CC[NH2:10]>>CC[n+]1ccc([O-])[n:21]c1[S-].C[NH+](C)CC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1c(C)n(C)[n:10]c1C.O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n+:21]([H:20])c2c1>>Cc1c(C)n(C)[n+:10]([H:20])c1C.O=[N+]([O-])c1ccc2[nH]c(-c3cccs3)[n:21]c2c1 10=20;20,21=21",
"CC(=O)c1cc(F)cc(NC(=O)c2nnn[n:21]2[H:20])c1O.C[NH+](C)CCc1n[n:10]n[nH]1>>CC(=O)c1cc(F)cc(NC(=O)c2nnn[n-:21]2)c1O.C[NH+](C)CCc1n[n+:10]([H:20])n[nH]1 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(N)cc2)CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(N)cc2)[H:20])CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[Se](=O)[O-:10].[NH3+]CCCCC#CC#CCCC(=O)[O:21][H:20]>>C[Se](=O)[O:10][H:20].[NH3+]CCCCC#CC#CCCC(=O)[O-:21] 10=20;20,21=21",
"CC(O)C[NH:10]C(C)(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(O)C[NH+:10](C(C)(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)c1csc(C(=O)[O:21][H:20])c1.Cc1cc(C)[n-:10]n1>>CC(C)c1csc(C(=O)[O-:21])c1.Cc1cc(C)[n:10]([H:20])n1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(Cc1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CCC[NH+:21](C(C)C(=O)Nc1ccccc1C)[H:20].O=C(O)[C@@H](P)CC[C@H](P)C(=O)[O-:10]>>CCC[NH:21]C(C)C(=O)Nc1ccccc1C.O=C(O)[C@@H](P)CC[C@H](P)C(=O)[O:10][H:20] 10=20;20,21=21",
"O/[Se](c1ccccc1)=[O+:21]/[H:20].O=Cc1cccc([O-:10])c1>>O=Cc1cccc([O:10][H:20])c1.O[Se](c1ccccc1)=[O:21] 10=20;20,21=21",
"Cc1nnc(C)n1[NH-:10].Nc1cc[n+:21]([H:20])c(-c2cc(Cl)ccn2)c1>>Cc1nnc(C)n1[NH:10][H:20].Nc1cc[n:21]c(-c2cc(Cl)ccn2)c1 10=20;20,21=21",
"CC(=O)c1cc(C(C)=O)[n-:10]n1.[S-]c1c2ccccc2cc[n+:21]1[H:20]>>CC(=O)c1cc(C(C)=O)[n:10]([H:20])n1.[S-]c1c2ccccc2cc[n:21]1 10=20;20,21=21",
"C[NH:10]CCCCc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCCCc1ccccc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1C[N:10]=C(C(C)(C)C)S1.c1ccc2c[n+](CCC[NH2+:21][H:20])ccc2c1>>CC1C[N+:10]([H:20])=C(C(C)(C)C)S1.c1ccc2c[n+](CCC[NH2:21])ccc2c1 10=20;20,21=21",
"C1CCC(C2CCC[NH:10]2)CC1.Oc1ccc([O:21][H:20])c(Br)c1>>C1CCC(C2CCC[NH+:10]2[H:20])CC1.Oc1ccc([O-:21])c(Br)c1 10=20;20,21=21",
"O=C1C=CC(Br)=CC=C1[O:21][H:20].O=C1CCC([O-:10])=C1O>>O=C1C=CC(Br)=CC=C1[O-:21].O=C1CCC([O:10][H:20])=C1O 10=20;20,21=21",
"FC(F)(F)c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.Nc1oc2ccccc2[n:10]1>>FC(F)(F)c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.Nc1oc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"Nc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1c(O)cccc1C[NH2:10].[NH3+]/N=C/c1ncnc2c1[nH]c[n+:21]2[H:20]>>COc1c(O)cccc1C[NH2+:10][H:20].[NH3+]/N=C/c1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"Cc1cc[n+]([O-:10])cc1.O=C(O)CC(=O)[O:21][H:20]>>Cc1cc[n+]([O:10][H:20])cc1.O=C(O)CC(=O)[O-:21] 10=20;20,21=21",
"O=C([O-])CCCCCCCCCC[NH2:10].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=C([O-])CCCCCCCCCC[NH2+:10][H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1nn(C)c([O-:10])c1-c1ccccc1.O=[N+]([O-])c1cc([NH2+:21][H:20])cc2ccccc12>>Cc1nn(C)c([O:10][H:20])c1-c1ccccc1.O=[N+]([O-])c1cc([NH2:21])cc2ccccc12 10=20;20,21=21",
"Cn1cnc2nc([O-])nc([O-:10])c21.O=[N+]([O-])c1ccc([NH+:21](O)[H:20])cc1>>Cn1cnc2nc([O-])nc([O:10][H:20])c21.O=[N+]([O-])c1ccc([NH:21]O)cc1 10=20;20,21=21",
"COc1ccc(C[NH3+])cc1[NH2:10].[NH3+]CC(C[NH3+])[NH2+:21][H:20]>>COc1ccc(C[NH3+])cc1[NH2+:10][H:20].[NH3+]CC(C[NH3+])[NH2:21] 10=20;20,21=21",
"CC(C)C[NH+:21]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].Ic1cccc2ccc([O-:10])cc12>>CC(C)C[NH:21][C@H](c1ccccc1)[C@H](O)c1ccccc1.Ic1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"CC(C)(C#N)CC(=O)[O-:10].c1cc[n+:21]([H:20])c(-c2ccoc2)c1>>CC(C)(C#N)CC(=O)[O:10][H:20].c1cc[n:21]c(-c2ccoc2)c1 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:10].OCCOCC[NH2+:21][H:20]>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].OCCOCC[NH2:21] 10=20;20,21=21",
"C[N+:21](CO)(c1ccc(Cl)cc1)[H:20].[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCOCC1>>C[N:21](CO)c1ccc(Cl)cc1.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"O=C(C[Se]c1ccccc1[N+](=O)[O-])[O:21][H:20].O[NH:10]c1ccccc1>>O=C(C[Se]c1ccccc1[N+](=O)[O-])[O-:21].O[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
